* Z:\mnt\spice-netlists\LTC3862-1_V18N4F8.asc
M§Q1 N001 N005 N007 N007 Si7370DP
L1 IN N001 56µ
D1 N001 OUT PDS760
R1 N010 0 45.3K
R2 OUT N013 324K
R3 N013 0 5.62K
R4 IN N004 150K
R5 N004 0 24.9K
V1 IN 0 24
C1 OUT 0 47µ
R6 N007 0 20m
C2 0 N002 4.7µ
C3 0 N015 .001µ
C4 0 N003 .001µ
C5 0 N014 1500p
L2 IN N008 56µ
R7 N012 0 20m
M§Q2 N008 N009 N012 N012 Si7370DP
D2 N008 OUT PDS760
XU1 0 NC_01 NC_02 0 N010 N015 N014 N013 0 NC_03 NC_04 0 N011 0 MP_05 N009 0 N005 N002 IN N004 0 N006 N003 LTC3862-1
C6 IN 0 6.8µ x3
C7 OUT 0 2.2µ
R8 N007 N006 10
R9 N012 N011 10
Rload OUT 0 48
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 4m startup
* LTC3862-1 - Multi-Phase Current Mode Step-Up DC/DC Controller\n2-Phase Boost Converter for Diesel Fuel Injector Actuator\nInput: 8.5V - 28V     Output: 72V @ 1.5A
* Notes: \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc.  All rights reserved.
.lib LTC3862-1.sub
.backanno
.end
