* Z:\mnt\spice-netlists\LTC1624.asc
L1 N007 OUT 10µ
M§Q1 N001 N005 N007 N007 Si4412DY
V1 IN 0 12
C1 OUT 0 200µ
C2 N006 0 100p
C3 N003 N004 470p
R1 N006 0 20K
R2 OUT N006 35.7K
R3 0 N003 6.8K
D1 0 N007 MBRS340
C4 N002 N007 .1µ
I1 OUT 0 3 load
C5 IN N001 1000p
XU1 N001 N004 N006 0 N007 N005 N002 IN LTC1624
R4 IN N001 .033
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* LTC1624 - 200kHz, 3A, Step-Down Converter\nInput: 12V     Output: 3.3V @ 3A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LTC1624.sub
.backanno
.end
