* Z:\mnt\spice-netlists\LTC1778.asc
XU1 N005 N012 N007 0 N010 0 N002 N013 0 N001 N008 N011 0 N004 N003 N006 LTC1778
M§Q1 IN N003 N004 N004 Si4884DY
M§Q2 N004 N011 0 0 Si4874DY
C1 N004 N006 .22µ
C2 N008 0 4.7µ
R1 IN N001 1
C3 N005 0 .001µ
R2 N008 N007 39K
R3 N007 0 11K
C4 N009 0 1000p
C5 N010 0 22p
R4 N010 N009 20K
R5 N008 N012 100K
L1 N004 OUT 0.68µ
V1 IN 0 12
C6 OUT 0 180µ
C7 OUT 0 22µ
C8 OUT 0 22µ
R6 N013 0 14K
R7 OUT N013 30.1K
C9 0 N001 .1µ
C10 IN 0 22µ
C11 OUT N013 470p
R8 IN N002 715K
I1 OUT 0 10 load
D1 N008 N006 BAT54
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2.5m startup
* LTC1778 - No Rsense, Synchronous Step-Down DC/DC Converter\nInput: 12V   Output: 2.5V @ 10A
* Active Load
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LTC1778.sub
.backanno
.end
