* Z:\mnt\spice-netlists\LTC3127.asc
XU1 0 N001 IN IN 0 N004 0 N003 N005 OUT N002 LTC3127
L1 N001 N002 4.7µ
R1 N005 0 499K
C1 N005 0 100p
R2 N003 0 1Meg
R3 OUT N003 2.15Meg
R4 N004 0 32.4K
C2 IN 0 10µ
C3 OUT 0 2.2m
V1 IN 0 5
I2 OUT 0 PULSE(0 2 25m 1u 1u 1.15m 4.62m 2)
.tran 35m startup
* Notes:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2010 Linear Technology Inc. All rights reserved.
* LTC3127 - 1A Buck-Boost DC/DC Converter with Programmable Input Current Limit\nInput: 5V USB (500mA Max)     Output: 3.8V Class 10 GPRS Pulsed Load
.lib LTC3127.sub
.backanno
.end
