* Z:\mnt\spice-netlists\LTC3417.asc
L1 N003 OUT2 2.2µ
R1 OUT2 N005 665K
V1 IN 0 3.3
C1 OUT2 0 10µ
R2 N005 0 316K
I1 OUT2 0 800m load
C2 IN 0 10µ
C3 OUT2 N005 10p
L2 N002 OUT1 1.7µ
C4 OUT1 N004 10p
R3 N004 0 392K
C5 OUT1 0 20µ
I2 OUT1 0 1.4 load
XU1 MP_01 IN IN N006 N004 N005 N007 IN IN 0 MP_02 0 N003 NC_03 IN 0 0 N002 0 LTC3417
R4 OUT1 N004 499K
R5 N006 N008 5.9K
C6 N008 0 2200p
R6 N007 N009 5.9K
C7 N009 0 2200p
.tran 900u startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LTC3417 - Dual 1.4A/800mA, Synchronous Step-Down Regulator in Exposed Pad DFN Package\nInput: 3.3V     Output1: 1.8V @ 1.4A         Output2: 2.5V @ 800mA
.lib LTC3417.sub
.backanno
.end
