* Z:\mnt\spice-netlists\LTC3418.asc
L1 N004 OUT .2µ
R1 OUT N007 2.55K
V1 IN 0 3.3
C1 OUT 0 100µ
R2 N007 0 2K
C2 OUT N007 1000p
XU1 N008 IN 0 N004 0 IN N001 N002 N007 N006 N003 IN LTC3418
C3 N005 0 1000p
R3 N006 N005 4.99K
C4 N003 0 1000p
R4 IN N003 2.2Meg
R5 N008 0 69.8K
C5 N006 0 47p
C6 IN 0 100µ
R6 IN N001 100
C7 N001 0 1µ
R7 IN N002 100K
I1 OUT 0 8 load
.tran 1.75m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LTC3418 - 8A, 4MHz, Monolithic Synchronous Step-down Regulator\nInput: 3.3V     Output: 1.8V @ 8A
.lib LTC3418.sub
.backanno
.end
