* Z:\mnt\spice-netlists\LTC3440.asc
XU1 N007 0 N001 N002 0 OUT IN N003 N004 N005 LTC3440
L1 N001 N002 10µ
R1 N007 0 60.4K
C1 IN 0 10µ
V1 IN 0 3
C2 N006 N005 .0015µ
R2 N004 N006 15K
R3 N004 0 200K
R4 OUT N004 340K
C3 OUT 0 22µ
I1 OUT 0 600m load
R5 IN N003 1Meg
C4 N003 0 .0047µ
.tran 5m startup
* LTC3440 - 600mA Synchronous Buck-Boost DC/DC Converter\nInput: 2.7V to 4.2V     Output: 3.3V @ 600mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LTC3440.sub
.backanno
.end
