* Z:\mnt\spice-netlists\LTC3444.asc
L1 N001 N002 2.2µ
V1 N003 0 3.6
R1 OUT N004 340K
R2 N004 0 267K
C1 OUT 0 4.7µ
XU1 N003 N001 0 N002 OUT N003 0 N004 LTC3444
V2 N005 0 PULSE(.28 2.36 100u 10u 10u 140u 300u)
R3 N005 N004 205K
I1 OUT 0 100m
.tran 650u startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LTC3444 - µPower Synchronous Buck-Boost DC/DC Converter for WCDMA Applications\nInput: 3.6V     Output voltage controlled
.lib LTC3444.sub
.backanno
.end
