* Z:\mnt\spice-netlists\LTC3452.asc
L1 N001 N002 4.7µ
V1 IN 0 3
C3 IN 0 2.2µ
C1 N010 0 {.1µ/5}
D1 N003 N004 AOT-2015
C2 N003 0 4.7µ
XU1 IN IN N008 N005 N007 N009 N011 N012 0 N004 MP_01 N004 N006 IN N010 N003 N002 0 N001 IN LTC3452
R1 N008 0 10.2K
R2 N006 0 4.87K
D2 N003 N005 NSCW100
D3 N003 N007 NSCW100
D4 N003 N009 NSCW100
D5 N003 N011 NSCW100
D6 N003 N012 NSCW100
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran {20m/5} startup
* LTC3452 - Synchronous Buck-Boost MAIN/CAMERA White LED Driver\nInput: 2.7V - 5.5V    Output: 250mA and 5 x 20mA
* Notes:\n  Compensation capacitor, C1, is reduced 5 fold from it's recommended value in the interest of speeding up the\n  startup simulation.\n \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2008 Linear Technology Inc. All rights reserved.
.lib LTC3452.sub
.backanno
.end
