* Z:\mnt\spice-netlists\LTC3531.asc
XU1 N001 IN 0 N003 N004 OUT N002 0 LTC3531
L1 N001 N002 10µ
R1 OUT N004 340K
R2 N004 0 200K
V1 IN 0 2.9
C1 OUT 0 10µ
R3 IN N003 1Meg
R4 OUT 0 16.5
.tran 1m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
* LTC3531 -  Buck-Boost Converter\nInput: 2.9V     Output: 3.3V @ 200mA
.lib LTC3531.sub
.backanno
.end
