* Z:\mnt\spice-netlists\LTC3533.asc
L1 N001 N002 2.2µ
V1 IN 0 4.2
R1 IN N003 1Meg
C1 N003 0 .002µ
R2 OUT N005 365K
R3 N005 0 215K
C3 OUT 0 47µ
XU1 N006 N004 0 N001 0 MP_01 N002 OUT OUT IN IN N003 N005 N007 LTC3533
R4 N006 0 33.2K
R5 N004 0 215K
C4 N004 0 .1µ
C5 OUT N005 47p
C6 IN 0 10µ
Rload OUT 0 2.2
C2 N008 N007 .001µ
C7 N005 N007 6.8p
R6 N005 N008 8.2K
.tran 1.25m startup
* LTC3533 - 2A Wide Inut Voltage Synchronous Buck-Boost DC/DC Converter\nInput: 1.8V - 5.5V        Output: 3.3V @ 1.5A(derates linearly from 1.5A at 2.4Vin to 0.8A at 1.8Vin)\nBased On DC999A - High Efficiency Synchronous Buck-Boost Converter with Automatic Burst Mode
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2008 Linear Technology Inc. All rights reserved.
.lib LTC3533.sub
.backanno
.end
